US07435837B2
(±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}propan-1-amine
The title compound was prepared (0.092 g, 84%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-([5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.13 g, 0.28 mmol) and propylamine (0.165 g, 2.80 mmol). mp >250° C.

reactant | [5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.28 mmol, 0.13 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)F | C22H17Cl2FO4S
reactant | propylamine | 2.80 mmol, 0.165 g | C(CC)N | C3H9N
product | (±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}propan-1-amine | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2CC(OC21)CNCCC)F | C18H18Cl2FNO
